US07217736B2
4-Chlorobenzyl 5-amino-4-oxopentanoate hydrochloride [compound 19]
From 4-chlorobenzyl alcohol (5.0 g; 35 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol). The reaction was complete after 24 h at 100° C. The yield was 0.56 g (32%). Mp 127–129° C.

reactant | 4-chlorobenzyl alcohol | 35 mmol, 5.0 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 4-Chlorobenzyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCC1=CC=C(C=C1)Cl)=O | InChI=1S/C12H14ClNO3.ClH/c13-10-3-1-9(2-4-10)8-17-12(16)6-5-11(15)7-14;/h1-4H,5-8,14H2;1H
